US05118827
To a solution of 15-chloro-3-(1-methylethyl)-6,10, 14-trimethyl-2-trimethylsiloxy-3,5,9,13-pentadecatetraenenitrile (58 mg, 0.14 mmol) prepared in Reference Example 5 in tetrahydrofuran (2 ml) cooled at 0° C. is slowly added 1N hydrochloric acid (0.5 ml). After stirring at this temperature for 10 minutes, to the mixture is added a saturated saline solution (5 ml) and the mixture is extracted with ether (10 ml×2). The organic layer is washed with a saturated saline solution (5 ml) and dried over anhydrous sodium sulfate. The solvent is removed by distillation under reduced pressure and the resulting residue is purified by silica gel column chromatography (n-hexane/ethyl acetate =10:1) to give 15-chloro-2-hydroxy-3-(1-methylethyl)-6,10,14-trimethyl-3,5,9,13-pentadecatetraenenitrile (38 mg, 75%).

reactant | 15-chloro-3-(1-methylethyl)-6,10, 14-trimethyl-2-trimethylsiloxy-3,5,9,13-pentadecatetraenenitrile | 0.14 mmol, 58 mg | ClCC(=CCCC(=CCCC(=CC=C(C(C#N)O[Si](C)(C)C)C(C)C)C)C)C | C24H40ClNOSi
reactant | hydrochloric acid | 1N, 0.5 ml | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 15-chloro-2-hydroxy-3-(1-methylethyl)-6,10,14-trimethyl-3,5,9,13-pentadecatetraenenitrile | 38 mg, 75% | ClCC(=CCCC(=CCCC(=CC=C(C(C#N)O)C(C)C)C)C)C | C21H32ClNO
